US05969070
Preparation of Bis(2-(4-methylphenyl) indenyl)zirconium dichloride, Catalyst I (Ligand 5)
N-Butyllithium (1.6M in hexanes, 4.2 mL, 6.7 mmol) was added dropwise to a solution of 2-(4-methyl)phenyl)indene (1.323 g, 6.4 mmol) in Et2O (20 mL). The red-orange solution was stirred at ambient temperature for 30 min after which time the solvent was removed in vacuo. In a drybox, to the resulting solid was added ZrCl4 (0.754 g, 3.2 mmol). The solids were cooled to -78° C. and methylene chloride (60 mL) was slowly added. The solution was warmed to room temperature and kept there overnight. The resulting yellow-orange turbid solution was then filtered over a plug of Celite and the Celite was washed with CH2Cl2 until the washings were colorless (ca. 60 mL). The product was recrystallized from CH2Cl2 /hexane at -18° C. Yield: 577 mg (31%). 1H NMR (C6D6, 23° C., 400 MHz): d 7.36 (d, J=8 Hz, 4H); 7.11 (m, 4H); 7.02 (d, J=8 Hz, 4H); 6.92 (m, 4H); 6.43 (s, 4H, Cp-H); 2.17 (s, 6H, CH3). C, H analysis (crystallizes with 1/2 CH2Cl2): Anal. Found (Calcd.): C, 63.21 (63.46); H, 4.41 (4.42).

reactant | N-Butyllithium | 6.7 mmol, 1.6M, 4.2 mL | [Li+].CCC[CH2-]
reactant | indene | 6.4 mmol, 1.323 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | ZrCl4 | 3.2 mmol, 0.754 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | Bis(2-(4-methylphenyl) indenyl)zirconium dichloride | [Cl-].[Cl-].CC1=CC=C(C=C1)C=1C(C2=CC=CC=C2C1)[Zr+2]C1C(=CC2=CC=CC=C12)C1=CC=C(C=C1)C | InChI=1S/2C16H13.2ClH.Zr/c2*1-12-6-8-13(9-7-12)16-10-14-4-2-3-5-15(14)11-16;;;/h2*2-11H,1H3;2*1H;/q;;;;+2/p-2
